US05125957
1.73 Grams of 6-chlorosalicylic acid was dissolved in 20 ml of tetrahydrofuran, and 1.95 g of N,N'-carbonyldiimidazole was added. After stirring at room temperature for 30 minutes, 1.47 g of N,N-dimethylhydroxylamine hydrochloride and 1.52 g of triethylamine were added, and the resulting mixed solution was stirred at room temperature for 7 hours. The reaction solution was poured into water and extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue obtained was subjected to column chromatography to obtain 1.1 g of 3-chloro-2-(N,N-dimethylaminooxycarbonyl)phenol.

reactant | 6-chlorosalicylic acid | ClC=1C=CC=C(C1C(=O)O)O | C7H5ClO3
reactant | N,N-dimethylhydroxylamine hydrochloride | 1.47 g | Cl.CN(O)C
reactant | triethylamine | 1.52 g | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 3-chloro-2-(N,N-dimethylaminooxycarbonyl)phenol | 1.1 g | ClC=1C(=C(C=CC1)O)C(=O)ON(C)C | C9H10ClNO3
